US08865704B2
trans-3-[4-(4-Pyrimidin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione
To a solution of trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexanecarboxylic acid (100 mg, 0.33 mmol) in DMF(2 mL), diisopropylethylamine (58 μL, 0.33 mmol) and HATU (126 mg, 0.33 mmol) were added. The mixture was left 6 hours stirring at room temperature and then 1-(2-pyrimidyl)piperazine was added. After 16 hours at room temperature the solvent was removed under reduced pressure; the residue was dissolved in 2 mL of DCM and washed with 2 mL of 0.4N Na2CO3 solution. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. The titled compound (58 mg, yield 39%) was purified by precipitation from methanol.

reactant | trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexanecarboxylic acid | 0.33 mmol, 100 mg | O=C1NC2=CC=CC=C2C(N1C[C@@H]1CC[C@H](CC1)C(=O)O)=O | C16H18N2O4
reactant | diisopropylethylamine | 0.33 mmol, 58 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.33 mmol, 126 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-pyrimidyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | trans-3-[4-(4-Pyrimidin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione | 58 mg, yield 39% | N1=C(N=CC=C1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C24H28N6O3
